US05260445
5-(4-[2-(N-Methyl-N-(2-pyrimidinyl)amino)ethoxy] benzylidene)-2,4-thiazolidinedione
A solution of 4-[2-(N-methyl-N-(2-pyrimidinyl)amino) ethoxy]benzaldehyde (1.7 g) and 2,4-thiazolidinedione (0.7 g) in toluene (100 ml) containing a catalytic quantity of piperidinium acetate was boiled under reflux in a Dean and Stark apparatus for 2 hours. The mixture was cooled and filtered to give the title compound (mp 189°-90° C.).

reactant | 4-[2-(N-methyl-N-(2-pyrimidinyl)amino) ethoxy]benzaldehyde | 1.7 g | CN(C1=NC=CC=N1)CCOC1=CC=C(C=O)C=C1 | C14H15N3O2
reactant | 2,4-thiazolidinedione | 0.7 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidinium acetate | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-[2-(N-Methyl-N-(2-pyrimidinyl)amino)ethoxy] benzylidene)-2,4-thiazolidinedione | CN(C1=NC=CC=N1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C17H16N4O3S
